US04853410
6-Chloro-7-methoxy-2-methylchroman-4-one
In a polyethylene bottle were combined 3.3 g (13 mmol) 3-(4-chloro-3-methoxyphenoxy)butyric acid and 30 ml liquid hydrogen fluoride. The reaction mixture was allowed to stand at 23° C. for 72 hours, then poured over ice and extracted with 2×100 ml diethyl ether. The ether was washed with 2×100 ml water, 100 ml saturated sodium bicarbonate and brine, dried over magnesium sulfate and concentrated in vacuo to give the product as a yellow solid, 2.7 g (93%).

reactant | polyethylene | C(C[*:2])[*:1]
reactant | 3-(4-chloro-3-methoxyphenoxy)butyric acid | 13 mmol, 3.3 g | ClC1=C(C=C(OC(CC(=O)O)C)C=C1)OC | C11H13ClO4
reactant | hydrogen fluoride | F | FH
product | 6-Chloro-7-methoxy-2-methylchroman-4-one | ClC=1C=C2C(CC(OC2=CC1OC)C)=O | C11H11ClO3
